US07737153B2
Benzyl 3-(2-amino-6-hydroxypyrimidin-4-yl)piperidine-1-carboxylate
2 g (7.59 mmol) of 1-benzyl piperidine-1,3-dicarboxylate, 1.31 g (9.11 mmol) of 2,2-dimethyl-1,3-dioxolane-4,6-dione and 1.85 g (15.19 mmol) of 4-dimethylamino-pyridine are initially charged in 12 ml of dichloromethane, and the mixture is cooled to 0° C. 1.60 g (8.35 mmol) of (3-dimethylaminopropyl)ethylcarbodiimide hydrochloride are added. The mixture is stirred at 0° C. for one hour and then at room temperature for 18 hours. The reaction mixture is diluted with dichloromethane (50 ml) and washed successively with water (20 ml), 1N hydrochloric acid (30 ml), saturated aqueous sodium bicarbonate solution (30 ml) and saturated aqueous sodium chloride solution. The organic phase is dried over anhydrous magnesium sulfate. The solution is concentrated under reduced pressure. The residue (1.2 g) is dissolved in 30 ml of ethanol, 0.13 ml (0.61 mmol) of 37% strength hydrochloric acid is added and the mixture is stirred under reflux for one hour. After cooling, 0.59 g (3.18 mmol) of guanidinium carbonate is added and the reaction mixture is stirred at reflux (oil bath temperature 93° C.) for 18 hours. The solution is concentrated. The crude product is purified on a silica gel column using dichloromethane/methanol 20:1. This gives 0.68 g (27% of theory) of product.

reactant | 1-benzyl piperidine-1,3-dicarboxylate | 7.59 mmol, 2 g | N1(CC(CCC1)C(=O)[O-])C(=O)OCC1=CC=CC=C1
reactant | (3-dimethylaminopropyl)ethylcarbodiimide hydrochloride | 8.35 mmol, 1.60 g | Cl.CN(CCCN=C=NCC)C
reactant | guanidinium carbonate | 3.18 mmol, 0.59 g | C([O-])([O-])=O.NC(=[NH2+])N.NC(=[NH2+])N
catalyst | 4-dimethylamino-pyridine | 15.19 mmol, 1.85 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Benzyl 3-(2-amino-6-hydroxypyrimidin-4-yl)piperidine-1-carboxylate | NC1=NC(=CC(=N1)C1CN(CCC1)C(=O)OCC1=CC=CC=C1)O | C17H20N4O3
